US07732604B2
In a round bottom flask was added 4-iodopyrazole (10.22 g, 52.70 mmol), Cs2CO3 (20.6 g, 63.2 mmol), and anhydrous DMF (100 mL). The suspension was stirred at 23° C. for 5 min. 2-(2-bromoethoxy)tetrahydro-2H pyran (9.95 mL, 63.2 mmol) was added and the reaction was stirred at 70° C. for 16 hours. After cooling down, EtOAc (100 mL) and water (100 mL) was added to the reaction. The organic layer was collected, and the aqueous layer was extracted with EtOAc (3×100 mL). The combined organic layers were washed with water (3×100 mL), dried over Na2SO4, and concentrated to afford dark brown oil. The crude product was purified on a silica gel column eluting with ethyl acetate and hexanes to provide 4-iodo-1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazole as yellow oil (14.78 g, 87% yield). 1H NMR (300 MHz, DMSO-d6) δ 7.89 (s, 1H) 7.52 (s, 1H) 4.47-4.56 (m, 1H) 4.25-4.35 (m, 2H) 3.81-3.96 (m, 1H) 3.66-3.75 (m, 1H) 3.45-3.57 (m, J=2.83 Hz, 1H) 3.32-3.40 (m, 1H) 1.34-1.71 (m, 6H).

reactant | 4-iodopyrazole | 52.70 mmol, 10.22 g | IC=1C=NNC1 | C3H3IN2
reactant | Cs2CO3 | 63.2 mmol, 20.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | 2-(2-bromoethoxy)tetrahydro-2H pyran | 63.2 mmol, 9.95 mL | BrCCOC1OCCCC1 | C7H13BrO2
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-iodo-1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazole | 14.78 g, 87% yield | IC=1C=NN(C1)CCOC1OCCCC1 | C10H15IN2O2
